US06172085B2
1-[2-(Diphenylmethoxy)ethyl]piperazine
In a reactor equipped with a water trap (Dean-Stark trap), a mixture of benzhydrol (5.0 g), 1-(2-hydroxyethyl)piperazine (3.5 g), camphor-10-sulfonic acid (14 g), and toluene (80 mL) was refluxed for 6 hours. Then, 1N-hydrochloric acid was added and the mixture was separated into two phases. The aqueous layer was made basic with 5 N aqueous sodium hydroxide, saturated with sodium chloride, and extracted with chloroform. The extract was washed with a small amount of saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure to provide 1.9 g of the title compound. Yield 24%. This compound was not further purified but directly submitted to the next reaction.

reactant | benzhydrol | 5.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 1-(2-hydroxyethyl)piperazine | 3.5 g | OCCN1CCNCC1 | C6H14N2O
reactant | camphor-10-sulfonic acid | 14 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(Diphenylmethoxy)ethyl]piperazine | 1.9 g, Yield 24% | C1(=CC=CC=C1)C(OCCN1CCNCC1)C1=CC=CC=C1 | C19H24N2O
